US09102692B2
Step 46: Synthesis of 4-bromo-1H-pyrrole-2-carboxylic acid ethyl ester (1503)
1H-Pyrrole-2-carboxylic acid ethyl ester (10 g) was dissolved in carbon tetrachloride (50 ml). A carbon tetrachloride solution (50 ml) of bromine was added dropwise thereto on ice over 30 minutes. The reaction mixture was stirred at 25° C. for one hour. The suspension of reaction mixture was added dropwise to an ethanol solution (100 ml) of 10% sodium ethoxide on ice over 20 minutes. The solvent was concentrated under reduced pressure. The resulting residue was diluted with ethyl acetate (40 ml) and water (20 ml). The organic layer was washed with an aqueous solution saturated with sodium chloride (10 ml), and then concentrated. The residue obtained by concentration under reduced pressure was purified by silica gel column chromatography (hexane/ethyl acetate). Thus, a brown solid was obtained (10 g, 99%).

reactant | 1H-Pyrrole-2-carboxylic acid ethyl ester | 10 g | C(C)OC(=O)C=1NC=CC1 | C7H9NO2
reactant | bromine | BrBr | Br2
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-bromo-1H-pyrrole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC=C(C1)Br | C7H8BrNO2
